US05220042
5 Grams of 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene was dissolved in 140 ml of tetrahydrofuran, then the solution was cooled to -78° C. under argon gas stream condition, in a dry ice-acetone bath. Then 18 ml of sec-butyllithium (1.3 mole cyclohexane solution) was added dropwise thereto and stirred for 30 minutes. To the reaction mixture was added dropwise 10 g (6.7 ml) of 1,7-dibromoheptane, next 6 g of sodium iodide and 10 ml of hexamethylphosphoric triamide were added to the reaction mixture. The cooling bath was removed from the reaction apparatus, and the reaction mixture was stirred at room temperature for 12-14 hours. Tetrahydrofuran was removed by evaporation under reduced pressure, the residue obtained was dissolved in 500 ml of a mixed solvent benzene-diethyl ether (1:1). The organic layer was washed with 100 ml of water in 4 times, and with 100 ml of saturated sodium chloride aqueous solution in 4 times, and dried over anhydrous magnesium sulfate. After the removal of the solvent by evaporating under reduced pressure, the residue obtained was treated by means of a silica gel column chromatography (diameter 5 cm×length 30 cm, adsorbent: "Wakol-C200") and developed and eluted with 20%-ethyl acetate-n-hexane to obtain 6.06 g (yield=72%) of 1-bromo-7-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]heptane. Colorless oily substance.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene | COC1=C(C=C(C(=C1)OCOC)OC)OCOC | C12H18O6
reactant | sec-butyllithium | 1.3 mole, 18 ml | C(C)(CC)[Li]
reactant | 1,7-dibromoheptane | 6.7 ml, 10 g | BrCCCCCCCBr | C7H14Br2
reactant | sodium iodide | 6 g | [I-].[Na+]
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
solvent | benzene diethyl ether | C1=CC=CC=C1.C(C)OCC
solvent | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 1-bromo-7-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]heptane | 6.06 g, yield=72% | BrCCCCCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C19H31BrO6
